US06162819
3-(5-Carboxy-2-furyl)-1-(4-trifluoromethylpyrimidin-2-yl)indazole hydrochloride:
1.3 g (5.7 mmol) of 3-(5-carboxy-2-furyl)indazole together with 1.3 g (11.4 mmol) of potassium tert-butoxide were dissolved in 5 ml of dry DMF and admixed with 2-chloro-4-trifluoromethylpyrimidine dissolved in 5 ml of DMF. The mixture was stirred at 60° C. the hydrochloride was precipitated from the aqueous phase by addition of 1N hydrochloric acid. This gave 420 mg (25%) of the title compound. m.p.: 258-261° C.

reactant | 3-(5-carboxy-2-furyl)indazole | 5.7 mmol, 1.3 g | C(=O)(O)C1=CC=C(O1)C1=NNC2=CC=CC=C12 | C12H8N2O3
reactant | potassium tert-butoxide | 11.4 mmol, 1.3 g | CC(C)([O-])C.[K+]
reactant | 2-chloro-4-trifluoromethylpyrimidine | ClC1=NC=CC(=N1)C(F)(F)F | C5H2ClF3N2
reactant | hydrochloride | Cl | ClH
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 3-(5-Carboxy-2-furyl)-1-(4-trifluoromethylpyrimidin-2-yl)indazole hydrochloride | Cl.C(=O)(O)C1=CC=C(O1)C1=NN(C2=CC=CC=C12)C1=NC=CC(=N1)C(F)(F)F | InChI=1S/C17H9F3N4O3.ClH/c18-17(19,20)13-7-8-21-16(22-13)24-10-4-2-1-3-9(10)14(23-24)11-5-6-12(27-11)15(25)26;/h1-8H,(H,25,26);1H
